* Z:\home\palmdev\projects\mestrado-instrumentacao\ltspice\MC_AC_AnalogRogowskiSignalProc.asc
V1 VR VRn AC 1
XU5 N005 UE_Fixed_DC V=5
XU7 N006 UE_Fixed_DC V=-5
XU8 N007 UE_Fixed_DC V=5
R4 VRf 0 {mc(100K,tola)}
R6 0 VRfn {mc(100K,tola)}
R7 VRf VR {mc(56K,tola)}
C2 VRf 0 {mc(1u,tolc)}
R8 VRfn VRn {mc(56K,tola)}
C3 0 VRfn {mc(1u,tolc)}
R9 N003 0 {mc(10K,tola)}
R10 N001 N003 {mc(10K,tola)}
XU10 N001 UE_Fixed_DC V=5
XU11 N004 UE_Fixed_DC V=-5
XU12 N002 UE_Fixed_DC V=5
XU1 VRf 0 N006 N007 N007 N005 Vout N005 Ref VRfn AD8253
XU2 N003 Ref N002 N004 Ref OP1177
.param tola=0.001 tolb=0.01 tolc=0.001
.step param run 1 100 1
.temp 80
.ac dec 1000 0.1 100k
.lib UE_Base.lib
.lib Z:\home\palmdev\projects\mestrado-instrumentacao\ltspice\AD8253.cir
.lib Z:\home\palmdev\projects\mestrado-instrumentacao\ltspice\op1177.cir
.backanno
.end
