* D:\Google Drive\Mestrado\Instrumentação\Instrumentação-Alunos\Trabalhos de Alunos\Guilherme\Projeto Final\simulations\ltspice\MC_Noise_AnalogRogowskiSignalProc.asc
V1 VR VRn 1
XU5 N005 UE_Fixed_DC V=5
XU6 VRf 0 N010 N011 N011 N005 PGAOut N005 Ref VRfn AD8253
XU7 N010 UE_Fixed_DC V=-5
XU8 N011 UE_Fixed_DC V=5
R4 VRf 0 {mc(100K,tola)}
R6 0 VRfn {mc(100K,tola)}
R7 VRf VR {mc(56K,tola)}
C2 VRf 0 {mc(1u,tolc)}
R8 VRfn VRn {mc(56K,tola)}
C3 0 VRfn {mc(1u,tolc)}
XU9 N003 Ref N002 N004 Ref OP1177
R9 N003 0 {mc(10K,tola)}
R10 N001 N003 {mc(10K,tola)}
XU10 N001 UE_Fixed_DC V=5
XU11 N004 UE_Fixed_DC V=-5
XU12 N002 UE_Fixed_DC V=5
XU13 N008 Vout N006 N009 Vout OP1177
XU14 N009 UE_Fixed_DC V=-5
XU15 N006 UE_Fixed_DC V=5
R11 N007 PGAOut {mc(33K,tola)}
R12 N008 N007 {mc(33K,tola)}
C5 N007 Vout {mc(10n,tolb)}
C6 N008 0 {mc(10n,tolb)}
.param tola=0.01 tolb=0.01 tolc=0.01
.step param run 1 100 1
.noise V(vout) V1 dec 100 0.1 1MEG
.MEAS NOISE VruidoRMS INTEG V(onoise)
.temp 80
.lib D:\Google Drive\Mestrado\Instrumentação\Instrumentação-Alunos\Trabalhos de Alunos\Guilherme\Projeto Final\simulations\ltspice\AD8253.cir
.lib D:\Google Drive\Mestrado\Instrumentação\Instrumentação-Alunos\Trabalhos de Alunos\Guilherme\Projeto Final\simulations\ltspice\op1177.cir
.lib UE_Base.lib
.backanno
.end
